US07705025B2
3-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile
The title compound is prepared in a manner substantially analogous to General Procedure D in 5 mL 20% DMF/dichloromethane using 4-(2-cyano-thiophen-3-yl)-benzoic acid, lithium salt (141 mg, 0.60 mmol), EDC-HCl (143 mg, 0.75 mmol), HOBt (101 mg, 0.75 mmol), DIEA (0.24 mL, 1.4 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (77 mg, 0.50 mmol) to give the title compound (120 mg, 66% yield). MS (ES+) 366.3 (M+H)+

reactant | 4-(2-cyano-thiophen-3-yl)-benzoic acid | C(#N)C=1SC=CC1C1=CC=C(C(=O)O)C=C1 | C12H7NO2S
reactant | lithium | 0.60 mmol, 141 mg | [Li] | Li
reactant | EDC-HCl | 0.75 mmol, 143 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.75 mmol, 101 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 1.4 mmol, 0.24 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.50 mmol, 77 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF dichloromethane | 5 mL | CN(C)C=O.ClCCl
product | 3-[4-(2(S)-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl]-thiophene-2-carbonitrile | 120 mg, 66% yield | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=C(SC=C1)C#N | C21H23N3OS
